US04343942
Ethyldiethoxyacetate (32 g.) and methylacetate (25 g.) are placed in a flask equipped with stirrer and reflux condenser and heated to reflux. Metallic sodium wire (6.5 g.) is introduced into the flask in small portions and heating continued until the sodium is completely dissolved. Methylacetate (25 g.) and metallic sodium wire (6.5 g.) are then added and heating continued until the solution is clear. The mixture is cooled, a large volume of ice water cautiously added and the mixture extracted with ether. The aqueous solution is acidified with hydrochloric acid at 10° C. to 15° C. and the desired product extracted with ether. The ethereal extract is dried (Na2SO4), the ether removed and the residue distilled in vacuo to give methyl γ,γ-diethoxyacetoacetate.

reactant | Ethyldiethoxyacetate | 32 g | C(C)OC(C(OCC)OCC)=O | C8H16O4
reactant | methylacetate | 25 g | COC(C)=O | C3H6O2
reactant | sodium | 6.5 g | [Na] | Na
reactant | Methylacetate | 25 g | COC(C)=O | C3H6O2
reactant | sodium | 6.5 g | [Na] | Na
product | methyl γ,γ-diethoxyacetoacetate | C(C)OC(C(CC(=O)OC)=O)OCC | C9H16O5
